US09255110B2
Sodiumboron hydride (200 mg, 5.5 mmol) was added to a solution of 2-triisopropylsilyl-oxazole-5-carboxaldehyde (0.7 g, 2.7 mmol) in a mixture of methanol and tetrahydrofuran (1/1, 20 mL) and the resulting mixture was stirred at room temperature for 20 minutes. The reaction mixture was then diluted with ethyl acetate, washed with water and brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to give (2-triisopropylsilanyl-oxazol-5-yl)-methanol without further purifications. This material was treated with 4-chloro-2-nitro-phenol as described in Preparation 20, Step A, to give 0.7 g of 5-(4-chloro-2-nitro-phenoxymethyl)-2-triisopropylsilanyl-oxazole.

reactant | Sodiumboron hydride | 5.5 mmol, 200 mg | B.[Na]
reactant | 2-triisopropylsilyl-oxazole-5-carboxaldehyde | 2.7 mmol, 0.7 g | C(C)(C)[Si](C=1OC(=CN1)C=O)(C(C)C)C(C)C | C13H23NO2Si
solvent | methanol | CO | CH4O
solvent | pyridine water | 20 mL | N1=CC=CC=C1.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-triisopropylsilanyl-oxazol-5-yl)-methanol | C(C)(C)[Si](C=1OC(=CN1)CO)(C(C)C)C(C)C | C13H25NO2Si
